Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lipitor / Zetia
 
Attending: ___.
 
Chief Complaint:
Chest Pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M h/o DMI, severe HTN, HLD, CKD on HD, previous NSTEMI 
___, presenting with chest pain, dizziness, blurry vision and 
N/V. The patient states that he had chest pain on the AM of 
admission while he was getting his car serviced. He said that he 
felt substernal chest pain, lightheadedness and weakness in his 
left arm while standing. He was not agitated and was not 
exercising. He sat down and relaxed and with ___ minutes the 
sensation resolved. His chest pain was not similar to the type 
of pain he had with his NSTEMI. He was initially sent to ___, bp 
was 120/60. He was given ASA 324, zofran, nitroglycerin started 
on a heparin drip with bolus and transferred to ___ ED for 
further evaluation.  
.  
Throughout the last 1.5 weeks, the patient says that he has had 
nausea associated with non-bilious, non-bloody, non-coffee 
grounds emesis. He is able to tolerate his food for ___ hours 
before he vomits. He has epigastric pain associated with the 
vomiting. A nausea medication prescribed by his nephrologist 
helped with the nausea. No fevers, chills, diarrhea.  
.  
During his recent HD sessions (last on 2 days), notably, recent 
increases in ultrafiltration occuring for a goal of reaching his 
dry weight more aggressively- 3 liters were removed. He 
tolerated the ultrafiltration well, but felt tired on that 
night. In addition, he was increased on clonidine on ___ for his 
blood pressure.  
.  
In the ED, initial vital signs were T: 97.3, HR: 78, BP: 143/74, 
SpO2: 100% on RA. He was continued on his heparin gtt in the ED. 
His EKG showed NSR at 77, TWI in I, aVL, V4-V6 which are 
unchanged since prior. He was admitted to the floor for rule out 
myocardial infarction.  
.  
On the floor, the patient feels well without chest pain. He was 
asking to eat some food and conversive. He complained of blurry 
vision and dry mouth. At baseline, the patient is short of 
breath with walking upstairs.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
.  
*** Cardiac review of systems is notable for absence of 
paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope  

 
Past Medical History:
-Dyslipidemia  
- NSTEMI in ___ demand from hypertensive urgency  
-Diabetes Mellitus x 20+ years complicated by retinopathy and 
neuropathy s/p amputation of left hallux ___, and nephropathy 
(on HD). Hgb A1c 4.9% ___. (Followed at ___ by ___  
-Coronary artery disease  
-End-Stage Kidney Disease on HD (___) likely ___ DMT2, HTN, 
and IgA nephropathy.  
-Severe Hypertension (notably two recent admissions of 
hypertensive urgency in ___  
-Hypercholesterolemia  
-Myositis both from Lipitor and Zetia  
-Diabetic foot ulcer, osteomyelitis of R hallux, s/p ___ 
right hallux interphalangeal joint arthroplasty without 
complications.  
-Lumbar spinal stenosis diagnosed  
-s/p R patellar fracture  
-s/p R wrist external fixation  
 
Social History:
___
Family History:
- Father with HTN and DM  
- Mother with breast cancer  
- Brothers with HTN, DM  

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS - T: 98.0, BP: 146/72, HR: 72, RR: 16 O2 sat: 97% RA  
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa.  
Neck: Supple. JVP not elevated.  
CV: RRR. normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, ND. Mild epigastric tenderness. No HSM or tenderness. 
 
Ext: No c/c/e.  

 
Pertinent Results:
Admission laboratories:

___ 03:50PM BLOOD WBC-4.9 RBC-3.21* Hgb-9.9* Hct-30.5* 
MCV-95 MCH-31.0 MCHC-32.6 RDW-18.0* Plt ___
___ 03:50PM BLOOD Neuts-70.4* ___ Monos-5.4 Eos-2.4 
Baso-0.8
___ 03:50PM BLOOD ___ PTT-77.7* ___
___ 03:50PM BLOOD Glucose-173* UreaN-38* Creat-8.1* Na-140 
K-4.1 Cl-97 HCO3-31 AnGap-16
___ 03:50PM BLOOD ALT-11 AST-15 AlkPhos-84 TotBili-0.7

Cardiac enzymes:
___ 03:50PM BLOOD CK(CPK)-178 CK-MB-7 cTropnT-0.57*
___ 11:40PM BLOOD CK(CPK)-167 CK-MB-6 cTropnT-0.58*
___ 07:00AM BLOOD CK(CPK)-137 CK-MB-5 cTropnT-0.53*
-------
EKG (___): Sinus rhythm. Peaked P wave with rightward P axis 
consistent with right atrial abnormality. Compared to the 
previous tracing of ___ the recording is of improved 
technical quality. While there are more prominent T wave 
abnormalities recorded in lead V4 with deepening of the T wave 
inversion, in the context of variation in precordial lead 
placement, these findings were previously recorded on ___ and 
may represent a stable tracing. Followup and clinical 
correlation are suggested. 

Rate PR QRS QT/QTc P QRS T 
77 150 72 436/465 78 17 155 
-----------
CXR (___):  
FINDINGS: PA and lateral views of the chest are obtained. The 
lungs are clear bilaterally without evidence of pneumonia or 
CHF. Cardiomediastinal silhouette is normal. Pulmonary 
vasculature is normal. No pneumothorax or pleural effusion is 
seen. Bony structures are intact. No free air below the right 
hemidiaphragm is seen. 
  
IMPRESSION: No acute intrathoracic process. 
 
Brief Hospital Course:
Patient is a ___ yo M h/o HTN, HLD, DM, CKD on HD, h/o NSTEMI in 
setting of hypertensive emergency, with no flow limiting lesions 
noted on recent p-mibi presenting with brief episode of 
lightheadedness and chest pain now resolved.  
.  
# Chest pain: The patient was transferred to the floor on a 
heparin drip and given aspirin 325 and nitroglycerin before he 
presented. On the floor, he did not have chest pain, shortness 
of breath or other signs associated with an acute coronary 
syndrome. His heparin gtt was stopped upon arrival to the floor. 
His CKs and troponins were flat, although troponins elevated. 
The troponins were likely elevated due to chronic renal 
insufficiency. Nevertheless, the aptient was continued on full 
dose aspirin, lisinopril, valsartan and labetolol.
.
Cardiac biomarkers x 3 were normal and there were no EKG 
changes. His chest discomfort was likely due to a hypovolemic 
state with demand ischemia. The patient has been having liters 
of fluid removed from dialysis and this lower volume of fluid 
could have precipitated his lightheadedness and cardiac 
symptoms. The patient was observed overnight without chest pain.
.
# Nausea: The patient presents with ongoing nausea over the last 
couple of weeks. LFTs were normal. The nausea likely relates to 
gastroparesis vs. infectious etiology vs. medication side effect 
vs. uremia. The patient's nausea was controlled with medications 
and he was able to eat dinner, breakfast and lunch.
.  
# End-stage renal disease: Patient on HD ___ schedule 
and missed his ___ dialysis appointment. Left arm fistula 
well-appearing, with palpable thrill. Outpt HD unit has been 
trying to more aggressively UF him to achieve his dry weight 
recently. The dialysis team saw the patient on ___ and felt 
his dialysis treatment could wait until ___. They contacted 
his outpatient nephrologist.
 
Medications on Admission:
-Folic Acid 1 mg DAILY  
-Pregabalin 75 mg ON NON-HD DAYS  
-Pregabalin 150 mg ON HD DAYS  
-Sevelamer HCl 1600 mg PO TID W/MEALS  
-Aspirin 325 mg One PO DAILY  
-Valsartan 320 mg qhs  
-Lisinopril 40 mg daily  
-Labetalol 300 mg BID  
-Hydralazine 100 mg PO Q8H  
-Diltiazem HCl 360 mg Sustained Release daily  
-Clonidine 0.1 mg Tablet Sig: One Tablet PO BID  
-Insulin Glargine  
-Codeine-Guaifenesin prn cough  
-Cepacol prn cough  

 
Discharge Medications:
1. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Pregabalin 75 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily): on non-hemodialysis days.  
3. Pregabalin 75 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily): On hemodialysis days.  
4. Sevelamer HCl 400 mg Tablet Sig: Four (4) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
5. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Valsartan 320 mg Tablet Sig: One (1) Tablet PO at bedtime.  
7. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Labetalol 300 mg Tablet Sig: One (1) Tablet PO twice a day.  
9. Hydralazine 100 mg Tablet Sig: One (1) Tablet PO three times 
a day.  
10. Diltiazem HCl 360 mg Tablet Sustained Release 24 hr Sig: One 
(1) Tablet Sustained Release 24 hr PO once a day.  
11. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
12. Insulin Glargine 100 unit/mL Cartridge Sig: Six (6) units 
Subcutaneous at bedtime.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-atypical chest pain
.
Secondary:
-Diabetes mellitus, Type I
-coronary artery disease
-end stage kidney disease
-hypercholesterolemia
-hypertension

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___. You were admitted for chest pain and 
lightheadedness. You did not have a heart attack. The chest 
discomfort was likely related to low volume of your blood after 
dialysis. You also had vomiting which can also cause you to a 
lower blood volume.
.
You had nausea while in the hospital, but no vomiting. You were 
able to eat without any problems.
.
You should call your dialysis center tomorrow to schedule a 
dialysis appointment. Your primary renal doctor was notified of 
your admission.
.
Your medications have not changed.
 
Followup Instructions:
___